US04112105
A mixture containing 1200 g. (5.95 moles) of 4-chloro-2-nitrobenzoic acid, 5000 ml. (69 moles) of thionyl chloride and 40 ml. of N,N-dimethylformamide was stirred 4 hours while the temperature was maintained at 26° C. When the evolution of hydrogen chloride subsided, the temperature was raised to 65° C. and stirring was continued an additional hour. After removing excess thionyl chloride by vacuum distillation, the residue was dissolved in 1 l. of 1,2-dichloroethane and the solution was evaporated under reduced pressure. The residue which was essentially free of thionyl chloride was dissolved in 5 l. of 1,2-dichloroethane and the solution was twice treated with decolorizing carbon and filtered to give a final solution of 4-chloro-2-nitrobenzoyl chloride in 1,2-dichloroethane which was used directly in the next step.

reactant | 4-chloro-2-nitrobenzoic acid | 5.95 moles | ClC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | thionyl chloride | 69 moles | S(=O)(Cl)Cl | Cl2OS
reactant | hydrogen chloride | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-2-nitrobenzoyl chloride | ClC1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
